US08835420B2
Preparation x31: (S)-4-Methyl-6-((1-(1-methyl-6-(3-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylsulfonyl)pyrimidine-5-carbonitrile
To a round-bottomed flask was added a mixture of (S)-4-methyl-6-((1-(1-methyl-6-(3-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile (100 mg, 0.239 mmol) in acetonitrile (7 mL) and water (7 mL). The reaction mixture was cooled to 0° C. Oxone (367 mg, 0.597 mmol) was added and the reaction mixture was stirred at 0° C. for 30 minutes and then allowed to warm to RT. After 1.5 hours the reaction mixture was diluted with EtOAc and washed with H2O (3×). The combined organic layers were dried over Na2SO4, filtered, and concentrated to give the title compound as a yellow solid, which was used without further purification. ESI-MS m/z [M+H]+ calc'd for C21H22N8O2S, 451; found 451.

reactant | (S)-4-methyl-6-((1-(1-methyl-6-(3-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile | 0.239 mmol, 100 mg | CC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C=2C(=NNC2)C)SC | C21H22N8S
reactant | Oxone | 0.597 mmol, 367 mg | OOS(=O)[O-].[K+]
reactant | acetonitrile | 7 mL | C(C)#N | C2H3N
solvent | water | 7 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-4-Methyl-6-((1-(1-methyl-6-(3-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylsulfonyl)pyrimidine-5-carbonitrile | CC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C=2C(=NNC2)C)S(=O)(=O)C | C21H22N8O2S
